US07745641B2
In a similar manner to Step 2 of Example 161, 4-chloro-7-[1-(tert-butoxycarbonyl)-3-iodoindol-2-yl]isoindolinone (148 mg, 0.291 mmol) was dissolved in diethylamine (7.4 mL), and the Solution was treated with bis(triphenylphosphine)dichloropalladium (16.3 mg, 0.0233 mmol), copper iodide (11.1 mg, 0.0582 mmol) and 3-butyn-1-ol (0.220 mL, 2.91 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=10/1) to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-3-(4-hydroxy-1-butynyl)indol-2-yl]isoindolinone (114 mg, yield 87%).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-3-iodoindol-2-yl]isoindolinone | 0.291 mmol, 148 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=CC=C2C1I)C(=O)OC(C)(C)C)=O | C21H18ClIN2O3
reactant | 3-butyn-1-ol | 2.91 mmol, 0.220 mL | C(CC#C)O | C4H6O
solvent | diethylamine | 7.4 mL | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)dichloropalladium | 0.0233 mmol, 16.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.0582 mmol, 11.1 mg | [Cu](I)I
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-3-(4-hydroxy-1-butynyl)indol-2-yl]isoindolinone | 114 mg, yield 87% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=CC=C2C1C#CCCO)C(=O)OC(C)(C)C)=O | C25H23ClN2O4
